US06479510B2
Step F. Preparation of 4-(4-fluorophenoxy)benzoic Acid
To a flask with 4-fluorophenyl boronic acid (2.1 g, 15 mmol), copper(II) acetate (1.4 g, 7.5 mmol), activated powdered molecular sieves (approximately 2 g), and methyl 4-hydroxybenzoate (1.2 g, 7.5 mmol) is added TEA (5.2 mL, 38 mmol) followed by CH2Cl2 (75 mL). The reaction is stirred for 16 hours at room temperature with air bubbling through it. The reaction mixture is diluted with CH2Cl2 and filtered through silica gel. The silica gel is washed with EtOAc-heptane. The solution is concentrated in vacuo and dissolved in dioxane (15 mL). To this solution is added aqueous LiOH (1N, 15 mL) and stirred for 18 hours at room temperature. To this reaction mixture is added aqueous HCl (1N) until acidic, having a pH less than 6. The resulting precipitate is collected by filtration and rinsed with water, and dried in vacuo to give the desired product (1.6 g, 90%). MS for C13H9FO3 (ESI) (M−H)− m/z 231.

reactant | 4-fluorophenyl boronic acid | 15 mmol, 2.1 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | methyl 4-hydroxybenzoate | 7.5 mmol, 1.2 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
catalyst | copper(II) acetate | 7.5 mmol, 1.4 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-fluorophenoxy)benzoic Acid | 1.6 g, 90% | FC1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C13H9FO3
